US05654326
Using the procedure described in Example 9, Part A, 100 mL (130 mmol) of 1.3M sec-butyl lithium in cyclohexane was reacted with N-tert-butoxycarbonyl-3-methoxy-2-methylaniline (15.4 g, 65 mmol) in 100 mL of THF and then with 8.4 g (65 mmol) of N-methoxy-N-methylcyclopropylcarboxamide to give crude [2-(tert-butoxycarbonylamino)-6-methoxyphenyl]methyl cyclopropyl ketone. This material on treatment with 20 mL of trifluoroacetic acid in 300 mL of methylene chloride for 6 hours gave a material that was chromatographed on silica gel. Eluting with a gradient, toluene→5% EtOAc/toluene, there was obtained 6.4 g (52% yield) of 2-cyclopropyl-4-methoxy-1H-indole as an oil.

reactant | sec-butyl lithium | 130 mmol, 1.3M, 100 mL | C(C)(CC)[Li]
reactant | N-tert-butoxycarbonyl-3-methoxy-2-methylaniline | 65 mmol, 15.4 g | C(C)(C)(C)OC(=O)NC1=C(C(=CC=C1)OC)C | C13H19NO3
reactant | [2-(tert-butoxycarbonylamino)-6-methoxyphenyl]methyl cyclopropyl ketone | C1(CC1)C(=O)CC1=C(C=CC=C1OC)NC(=O)OC(C)(C)C | C17H23NO4
reactant | THF | 100 mL | C1CCOC1 | C4H8O
solvent | cyclohexane | C1CCCCC1 | C6H12
product | N-methoxy-N-methylcyclopropylcarboxamide | 65 mmol, 8.4 g | CON(C(=O)C1CC1)C | C6H11NO2
